US05574178
2,6-di-tert-butyl-3-methyl-1,4-benzoquinone (49 g) was dissolved in methylene chloride (300 ml) and sodium borohydride (15 g) was added to the solution under a nitrogen atmosphere. After adding methanol (30 ml) dropwise, the mixture was stirred for 3 h, poured into 5% HCl under ice cooling, and subjected to extraction with methylene chloride. The extract was washed with water, dried over anhydrous sodium sulfate and the solvent was distilled off. The residue was dissolved in methylene chloride (200 ml) and, after adding 3,4-2H-dihydropyran (26 ml) and a catalytic amount of paratoluenesulfonic acid, the mixture was stirred overnight at room temperature. The reaction mixture was washed with water, dried over anhydrous sodium sulfate and the solvent was distilled off. The residue was purified by silica gel chromatography (10% ethyl acetate in n-hexane) to afford 2,6-di-tert-butyl-3-methyl-4-tetrahydropyranyloxyphenol [54.4 g (yield, 81%)] as a colorless oil. Mass 320(M+)

reactant | 2,6-di-tert-butyl-3-methyl-1,4-benzoquinone | 49 g | C(C)(C)(C)C=1C(C(=CC(C1C)=O)C(C)(C)C)=O | C15H22O2
reactant | sodium borohydride | 15 g | [BH4-].[Na+]
reactant | methanol | 30 ml | CO | CH4O
reactant | HCl | Cl | ClH
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | 2,6-di-tert-butyl-3-methyl-4-tetrahydropyranyloxyphenol | 54.4 g, 81% | C(C)(C)(C)C1=C(C(=CC(=C1C)OC1OCCCC1)C(C)(C)C)O | C20H32O3
